US07781428B2
A mixture of 2-(benzyloxy)-4-hydrazinylbenzonitrile; Preparation 13 (358 mg, 1.5 mmol), Methyl 6-(cyclopentylmethylene)-5-oxo-5,6,7,8-tetrahydronaphthalene-2-carboxylate; Preparation 18 (284 mg, 1.0 mmol), ethanol (7 mL), and 1 drop of concentrated hydrogen chloride was stirred under argon at 80° C. for 64 hours. The mixture was cooled to room temperature, concentrated and purified by normal phase flash column chromatography on a 40 g silica gel column (20-80% ethyl acetate/hexanes gradient). Pure fractions were pooled and concentrated in vacuo to yield methyl 2-(3-(benzyloxy)-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylate (yellow foam, 485 mg, 0.96 mmol, 96% yield). The title compound was largely present as (±)-(3RS,3aSR)-methyl 2-(3-(benzyloxy)-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylate. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.00-1.51 (m, 7H), 1.56-1.68 (m, 1H), 1.82 (ddd, J=25.85, 12.96, 3.89 Hz, 1H), 1.95-2.08 (m, 1H), 2.15-2.31 (m, 1H), 2.82-2.95 (m, 1H), 3.11 (d, J=16.38 Hz, 1H), 3.53-3.63 (m, 1H), 3.87 (s, 3H), 4.91 (dd, J=9.53, 5.50 Hz, 1H), 5.31 (q, J=12.35 Hz, 2H), 6.85 (d, J=8.32 Hz, 1H), 6.96 (s, 1H), 7.35 (t, J=7.25 Hz, 1H), 7.39-7.57 (m, 5H), 7.80-7.92 (m, 2H), 8.10 (d, J=8.32 Hz, 1H). ES-MS m/z 506 (M+H).

reactant | 2-(benzyloxy)-4-hydrazinylbenzonitrile | C(C1=CC=CC=C1)OC1=C(C#N)C=CC(=C1)NN | C14H13N3O
reactant | Methyl 6-(cyclopentylmethylene)-5-oxo-5,6,7,8-tetrahydronaphthalene-2-carboxylate | C1(CCCC1)C=C1C(C=2C=CC(=CC2CC1)C(=O)OC)=O | C18H20O3
catalyst | hydrogen chloride | 1 drop | Cl | ClH
solvent | ethanol | 7 mL | C(C)O | C2H6O
product | methyl 2-(3-(benzyloxy)-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylate | 0.96 mmol, 485 mg, 96% yield | C(C1=CC=CC=C1)OC=1C=C(C=CC1C#N)N1N=C2C3=C(CCC2C1C1CCCC1)C=C(C=C3)C(=O)OC | C32H31N3O3
